US05432049
4-Acetylamino-N-methyl-1-phenoxyacridone
1.3 ml (16 mmol) of pyridine and 0.28 (4 mmol) of acetyl chloride are added to a solution of 0.7 g (2 mmol) of 4-amino-N-methyl-1-phenoxyacridone in 20 ml of chloroform, and the mixture is stirred at room temperature for 6 hours. The solution is washed with hydrochloric acid (18%), water and saturated aqueous sodium chloride solution, dried using sodium sulphate and evaporated. The residue is washed with diethyl ether nad filtered off. Yield: 0.6 g (83%) melting point: 252°-254° C.

reactant | pyridine | 16 mmol, 1.3 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 4-amino-N-methyl-1-phenoxyacridone | 2 mmol, 0.7 g | NC1=CC=C(C=2C(C3=CC=CC=C3N(C12)C)=O)OC1=CC=CC=C1 | C20H16N2O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Acetylamino-N-methyl-1-phenoxyacridone | C(C)(=O)NC1=CC=C(C=2C(C3=CC=CC=C3N(C12)C)=O)OC1=CC=CC=C1 | C22H18N2O3
